US07893056B2
[(2R)-3-(2-{6-[[(2-Amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (110 mg, 0.19 mmol) in 4:1 AcOH:water (5 mL) was stirred at room temperature for 2 days. The solvents were removed in vacuo, and the resulting crude product was purified by RP-HPLC to provide N-[(2R)-3-[2-(6-{[(2-amino-1,3-thiazol-4-yl)methyl](methyl)amino}-2-chloro-5-fluoro-4-pyrimidinyl)hydrazino]-2-(cyclopentylmethyl)-3-oxopropyl]-N-hydroxyformamide (20 mg, 21%). LCMS: (M+H)+: 501.1.

reactant | [(2R)-3-(2-{6-[[(2-Amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.19 mmol, 110 mg | NC=1SC=C(N1)CN(C1=C(C(=NC(=N1)Cl)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)C | C24H34ClFN8O4S
reactant | AcOH | CC(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | N-[(2R)-3-[2-(6-{[(2-amino-1,3-thiazol-4-yl)methyl](methyl)amino}-2-chloro-5-fluoro-4-pyrimidinyl)hydrazino]-2-(cyclopentylmethyl)-3-oxopropyl]-N-hydroxyformamide | 20 mg, 21% | NC=1SC=C(N1)CN(C1=C(C(=NC(=N1)Cl)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)C | C19H26ClFN8O3S
